Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim DS / Phenothiazines / Morphine / Compazine / Effexor
 
Attending: ___.
 
Chief Complaint:
Fever, diarrhea
 
Major Surgical or Invasive Procedure:
Biopsy of abdominal wall subcutaneous nodule

 
History of Present Illness:
The patient is a ___ woman with a history of multiple 
myeloma now presenting for worsening diarrhea and fevers over 
the last several days. The patient is s/p 3 cycles combination 
of Velcade (last dose ___ and Decadron to which she has had 
a good response. Patient was scheduled to have ___ cycle earlier 
this week on ___, but was held due to tachypnea. She was 
placed on ___ugmentin and Eyrthromycin for possible 
pneumonia.
 
___ presented to clinic ___ (yesterday) complaining of 
chills,
ongoing nausea, and diarrhea. Stool sample was sent from her
rehab per pt report. She reported "all day" diarrhea ___.
Temp increased to 100.0 in clinic. She recently completed ___ugmentin and Eyrthromycin for possible pneumonia.

Of note, patient had multiple rounds of radiation this month to 
her L hip for treatment of a myelomatous bony lesion.

Patient has a history of groin pain. MRI ___ revealed multiple 
myelomatous lesions of the left proximal femur and acetabulum. 
Given her concerning symptoms, she went for a CT of Torso w/out 
contrast today (___). Wet read shows 2 masses in her L pelvis. 
Fianl read is pending.

___ currently endorses a dry cough, sweats during the day, 
though
otherwise she reports no SOB, wheezing, congestion, sore throat,
sinus pressure. She reports some abdominal cramping does occur 
just before her bowel movements. She reports her groin pain is 
unchanged and continues to deny lower back pain and denies any 
other new pains.
She denies bleeding, bruising or rash.
 
Past Medical History:
Multiple Myeloma- Admitted ___ for back pain, Skeletal 
survey consistent with myelomatous disease in conjunction with 
elevated SPEP and B2 microglobulin.  Blood viscosity was normal. 
 Bone marrow biopsy on ___ confirmed diagnosis, showing 
hypercellularity with involvement by plasma cell dyscrasia.  
Presented with ___ to Cr 
of 3.3 on admission, likely from myelomatous light chain 
glomerular injury as outlined below.  Received bortezomib 
(Velcade) on ___, and ___.  Radiation oncology was 

consulted and delivered XRT to L1 vertebra during this admission 

fractionated into ten 300 cGy treatments for a total dose of 
3000 cGy. 
 Chronic low back pain, spinal stenosis
 HTN
 HLD
 NIDDM
 GERD, reflux esophagitis
 Obesity
 migraine headaches
 depression
 DVT (with pulmonary embolism, has ___ IVC filter due 
to poor anticoagulation).  
 Hiatal hernia
 s/p choleystectomy 
 s/p hysterectomy, BSO
 s/p L4-L5 laminectomy
 s/p right perional craniotomy for clipping of an anterior 
communicating artery aneurysm (___)
 
Social History:
___
Family History:
Most of family history is unavailable since patient was a foster 
child.  Denies significant family history of cardiovascular 
disease, early MI, arrhythmia or sudden cardiac death.  Denies 
family history of malignancy.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
T- 100.3, HR- 84, BP-149/73, RR- 18, O2 sat 98RA, Fingerstick 
103
GENERAL - Alert, oriented to self, location, my name.  Does not 
know the year.  No acute distress.  Does not remember going to 
radiation treatments, does remember she has myeloma.  
HEENT - PERRLA, EOMI, MMM, no thrush
NECK - Supple, no JVD appreciated
CARDIOVASCULAR - RRR, ___ systolic murmur loudest at the LUSB, 
no r/g
LUNGS - dec breath sounds at R base. Breathing unlabored, no 
accessory muscle use, 
ABDOMEN - BS normoactive, soft, ND.  No tenderness to deep 
palpation
EXTREMITIES -  2+ pitting edema up to ankles, 2+ pulses, no 
c/c/e.  Ecchymoses present at PIV sites.
SKIN - No rashes.
NEUROLOGICAL - CN ___ grossly intact. Moving all four limbs 
spontaneously.  Follows commands.
ACCESS: Tunneled line in double-lumen Power Port-A-Cath in right

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM: 
Tm 99.4 Tc 98.5 BP ___ P ___ P ___ R 16 O2 sat 
94-99%RA
Last febrile 100.5 @ 7PM ON ___
GENERAL - Alert, appropriate
HEENT - PERRLA, EOMI, MMM, no thrush.  No new ulcers
NECK - Supple
CARDIOVASCULAR - RRR, ___ systolic murmur loudest at the LUSB
LUNGS - Breathing unlabored, no accessory muscle use. Trace 
crackles bilaterally.
ABDOMEN - BS normoactive, soft, ND.  Mild tenderness to 
palpation in all quadrants, no rebound or guarding.  Nodular 
masses in subcutaneous tissue, bruising at sites of SQ 
injections, presacral mass decreased
EXTREMITIES -  Trace edema bilateral lower extremity edema, 2+ 
pulses, no c/c/e.  Ecchymoses present at PIV sites. 
SKIN - No rashes.  Ecchymosis on left flank.
NEUROLOGICAL - CN ___ grossly intact. Follows commands.

ACCESS: Tunneled line in double-lumen Power Port-A-Cath in right
Mild ecchymosis around port-a-cath, no fluctuance
 
Pertinent Results:
ADMISSION LABS
___ 02:20PM   WBC-5.6 RBC-3.19* HGB-10.8* HCT-31.5* MCV-99* 
MCH-33.9* MCHC-34.3 RDW-16.2*
___ 02:20PM   NEUTS-75* BANDS-1 LYMPHS-14* MONOS-6 EOS-2 
BASOS-0 ___ METAS-1* MYELOS-1* NUC RBCS-2*
___ 02:20PM   UREA N-12 CREAT-0.9 SODIUM-138 POTASSIUM-3.7 
CHLORIDE-102 TOTAL CO2-28 ANION GAP-12
___ 02:20PM   CALCIUM-8.9 PHOSPHATE-3.3 MAGNESIUM-1.8
___ 02:20PM   ALT(SGPT)-16 AST(SGOT)-67* LD(___)-949* ALK 
PHOS-178* TOT BILI-1.0

DISCHARGE LABS
___ 06:32AM BLOOD WBC-1.3* RBC-2.61* Hgb-8.3* Hct-23.8* 
MCV-91 MCH-31.9 MCHC-35.1* RDW-18.1* Plt Ct-86*
___ 06:32AM BLOOD Neuts-60 Bands-4 ___ Monos-4 Eos-1 
Baso-1 Atyps-2* Metas-1* Myelos-0
___ 06:32AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Ovalocy-OCCASIONAL Tear 
Dr-1+
___ 06:32AM BLOOD ___ PTT-43.9* ___
___ 06:32AM BLOOD Glucose-113* UreaN-8 Creat-0.5 Na-139 
K-3.6 Cl-103 HCO3-30 AnGap-10
___ 06:32AM BLOOD ALT-14 AST-25 LD(LDH)-224 AlkPhos-264* 
TotBili-1.0
___ 06:32AM BLOOD Albumin-3.3* Calcium-7.7* Phos-3.4 Mg-1.___hest/Abdomen/Pelvis without Contrast
Unread
My wet read- no acute pulmonary process, 2 masses in pelvis, 
each approx 2-3 cm in diameter

Pelvic MRI ___  
FINDINGS: Small amount of free fluid within the pelvis is likely
physiologic. 
The bladder appears unremarkable. The visualized portions of the
small and large bowel loops in the pelvis show no abnormality.
Multiple subcutaneous injection sites are also noted in the 
lower
abdomen. Degenerative changes are seen about the pubic 
symphysis.
Muscle atrophy is present about the hip joints. Heterogeneous
signal within the visualized portion of the lumbosacral spine 
(T1
hypointense and STIR hyperintense) is compatible with the
patient's known diagnosis of multiple myeloma. Multiple T1
hypointense, STIR hyperintense lesions are seen about the
proximal femur and femoral neck as well as in the left 
acetabulum
and left ischium, the extent of lytic lesions within the left
acetabulum is concerning for 
pathologic fracture risk, although no evidence of such exists at
this time. 
IMPRESSION: Within the limits of the imaging sequences acquired,
multiple myelomatous lesions of the left proximal femur and
acetabulum placing the risk at increased risk for pathologic
fracture. 

___ ___ IMPRESSION:  No evidence of deep venous thrombosis 
in the bilateral lower 
extremities. 

___ ECHO  IMPRESSION: Suboptimal image quality. The basal 
inferolateral segment is probably hypokinetic. Mild mitral 
regurgitation.

Protein Electrophoresis    
  ABNORMAL BAND IN SLOW GAMMA REGION
IDENTIFIED PREVIOUSLY, BY IFE, AS MONOCLONAL
IGG KAPPA
NOW REPRESENTS, BY DENSITOMETRY, ROUGHLY
21% (1300 MG/DL) OF TOTAL PROTEIN
INTERPRETED BY ___, MD
___ 1747* ___ mg/dL
Immunoglobulin A 24* 70 - 400 mg/dL
Immunoglobulin M 11* 40 - 230 mg/dL

___ ___ IMPRESSION:  No evidence of deep venous thrombosis 
in the bilateral lower 
extremities. 

___ ECHO  IMPRESSION: Suboptimal image quality. The basal 
inferolateral segment is probably hypokinetic. Mild mitral 
regurgitation.

___ CYTOLOGY OF CORE BIOPSY:
NEOPLASTIC CELLS PRESENT,
 consistent with plasmacytoma.

___ CXR:  No acute cardiopulmonary process

___ CT abd/pelvis:  
The lung bases demonstrate bilateral small nonhemorrhagic 
pleural 
effusions which have slightly increased in size since prior 
chest CT.  There is adjacent compressive atelectasis.  A 
punctate ground-glass nodule is again seen in the base of the 
left lower lobe (2B:3).  There are no new nodules or masses 
seen.  There is no pneumothorax.  The imaged portion of the 
heart is unremarkable.  Hypoattenuation of the blood pool may 
relate to anemia.  A 
central catheter tip is only partially imaged.  Calcified 
plaques along the right hemidiaphragm are redemonstrated. 
  
Evaluation of the intra-abdominal contents is limited by the 
lack of IV contrast.  The liver appears nodular in contour, 
concerning for underlying intrinsic liver disease.  There is 
evidence of portal hypertension with mild perisplenic and 
perihepatic ascites and splenomegaly measuring 14.8 cm in the 
craniocaudal dimension.  The pancreas and adrenal glands are 
grossly unremarkable.  There is no hydronephrosis or 
nephrolithiasis noted within the kidneys.  Scattered 
retroperitoneal lymph nodes do not meet CT size criteria 
for lymphadenopathy.  The stomach, large and small bowel are 
normal without evidence for obstruction.  Evaluation of vessel 
patency is again limited by the lack of contrast.  An infrarenal 
inferior vena cava filter is noted. 
  
PELVIS:  The bladder and rectum are normal.  The uterus is not 
easily identified.  The previously seen presacral mass is no 
longer visualized.  While some asymmetry of the piriformis 
musculature persists, no identifiable infiltrative mass is 
visualized.  There is no pelvic lymphadenopathy.  A trace amount 
of free fluid is present. 
  
BONES AND SOFT TISSUES:  Throughout the subcutaneous fat, there 
are multiple, fairly dense well-defined nodules, with the 
largest measuring 2.8 x 1.9 cm (2:50) which has slightly 
increased in size.  A nodule in the left posterior soft tissue 
has slightly decreased in size (2:37). The overall number of 
these nodules appears unchanged. Calcifications overlying the 
gluteus muscles may relate to injection granulomas.   
  
There are innumerable lytic lesions throughout the spine and 
other bones.  A superior endplate deformity of L1 has not 
progressed since the prior CT.  There is mild anterolisthesis of 
L4 on L5 which is unchanged.  Prior resection of lower lumbar 
posterior elements is again noted.  There are partially healed 
fractures involving the left ischial tuberosity and a non-united 
pathologic fracture involving the left posterior ninth rib. 
  
IMPRESSION: 
1.  Widespread osseous metastatic lesions which are grossly 
unchanged from 
prior. 
  
2.  Significant decrease in size of a presacral soft tissue 
mass. 
  
3.  Persistent numerous subcutaneous nodules which are known 
sites of myeloma 
involvment, some of which have increased and others which have 
decreased in 
size. 

___ DUPPLEX DOPPLER ABD/PELVIS 
1.  Cirrhotic liver, without focal lesions or biliary dilation. 
Splenomegaly 
and small ascites. 
2.  Patent hepatic vasculature. 

PROTEIN ELECTROPHORESIS 
Myeloma labs sheet entries for ___:
IgG: 1246. IgA: 32*. IgM: 14*. PEP: ABNORMAL B (IGG KAPPA; 11%
(600 MG/DL) OF TOTAL PROTEIN).
Light chains: 61 kappa, 4 lambda, 15 kappa/lambda ratio
Protein Electrophoresis    
  ABNORMAL BAND IN SLOW GAMMA REGION
IDENTIFIED PREVIOUSLY, BY IFE, AS MONOCLONAL
IGG KAPPA
NOW REPRESENTS, BY DENSITOMETRY, ROUGHLY
21% (1300 MG/DL) OF TOTAL PROTEIN
INTERPRETED BY ___, MD
___ 1747* ___ mg/dL
Immunoglobulin A 24* 70 - 400 mg/dL
Immunoglobulin M 11* 40 - 230 mg/dL

PATHOLOGY
___ CYTOLOGY OF CORE BIOPSY:
NEOPLASTIC CELLS PRESENT,
 consistent with plasmacytoma.

RELEVANT NEGATIVE MICROBIOLOGY
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ STOOL C. difficile DNA amplification 
assay-FINAL; FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
___ 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
___ 

OTHER RELEVANT LABS
___ 06:00AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE IgM HBc-NEGATIVE
___ 05:40AM BLOOD calTIBC-225* Ferritn-471* TRF-173*
___ 06:00AM BLOOD GGT-217*

PENDING STUDIES
___ 02:37PM BLOOD CERULOPLASMIN-PND
___ 02:37PM BLOOD ___
___ 06:00AM BLOOD ALKALINE PHOSPHATASE ISOENZYMES-PND
___ 02:37PM BLOOD ___
___ 06:00AM BLOOD AMA-PND
___ 02:37PM BLOOD Smooth-PND
 
Brief Hospital Course:
___ woman with a history of stroke/dementia and multiple 
myeloma (IgG Kappa) who presented from rehab with worsening 
diarrhea, fevers, and LDH >1000.  She has completed 3 cycles of 
velcade/decadron (last dose ___, and has been receiving 
radiation this month to her L hip for treatment of a myelomatous 
bony lesion.  She was supposed to receive a dose of 
velcade/decadron on ___, but due to feeling feverish with a 
cough, dose was held and augmentin and erythromycin were 
initiated for possible PNA. She returned to clinic ___ still 
feeling unwell. CT Torso revealed no acute pulmonary process, 
but there are lung nodules. Incidentally, there was a 4X5mm soft 
tissue mass in the pre-sacral area. She was found to have 
elevated LDH>1000 on admission, which is likely due to a soft 
tissue masses.  Biopsy of an abdominal wall nodule was confirmed 
to be plastmacytoma, so she was started on Cycle one of 
Velcade/Decadron/Cyclophosphamide on ___ for progressive 
disease.

On arrival, pt was placed on broad spectrum Abx, but these were 
discontinued due to low suspicion for infectious process.  C. 
diff and stool studies were negative, as with multiple blood and 
urine cultures. 

# Multiple Myeloma (IgG Kappa):  Patient presented with 
worsening disease after 3 cycles of velcade/decadron.  She has 
lytic lesions in the left acetabulum, multiple subcutaneous 
plasmacytomas (the likely cause of her elevated LDH on 
admission, which trended down with VCD), and protein 
electrophoresis showed increased IgG kappa.  She is s/p 3 cycles 
of velcade and Day 1 of VCD was ___.  She developed 
transfusion-dependent pancytopenia and Day 8 was held starting 
on ___, and she was given neupogen until her counts recovered. 
 She apparently had good response to VCD as the presacral mass 
decreased on repeated imaging and her LDH trended down.
We continued prophylaxis with atovaquone and acyclovir.  

# Pancytopenia - The patient developed pancytopenia in the 
setting of chemotherapy, and received blood and platelet 
tranfusions.  Chemotherapy was held as described above, and her 
counts remained stable without transfusions.  She was given 
neupogen until her counts recovered.  On the day of discharge, 
her ANC was 832, so she was given one dose of neupogen 300mcg.
 
# Lytic bone lesion left acetabulum and proximal femur - MRI 
showed lytic bony lesions placing her at high risk for 
fractures.  Orthopedic surgery and physical therapy were 
consulted, and recommended that she continue partial 
weight-bearing with a walker and use a TLSO brace.

# Fever - patient had low grade temperatures throughout the 
hospitalization but no infectious source was identified.  She 
was placed on broad spectrum antibiotics while neutropenic, but 
antibiotics were discontinued on ___ and she remained afebrile 
but had low grade temperatures around 99.5F.  Fevers are most 
likely medication-related or associated with multiple myeloma.

# Diarrhea - Patient has chronic diarrhea of unclear etiology.  
No infectious sources identified, repeated C. diff testing was 
negative.  Diarrhea may be related to local radiation treatment 
or antibiotics.  TTG was negative, suggesting against celiac 
disease, but IgA is also low, so celiac disease cannot be ruled 
out.

# Elevated alk phos / Intrinsic liver disease? - Patient had 
elevated alk phos and GGT (thought likely related to bone 
turnover) but CT imaging showed hetereogeneity of the liver 
parenchyma suggestive of intrinsic liver disease.  After 
discussion with liver specialists, we obtained duplex ultrasound 
which showed patent hepatic vessels.  Hepatitis panel was 
negative.  Iron studies not suggestive of hemochromatosis.  She 
likely has well-compensated cirrhosis from non-alcoholic steatic 
hepatitis, given that her other LFTs and her coags were within 
acceptable ranges.  Several studies are still pending upon 
discharge, including fractionated alkaline phosphatase, blood 
ceruloplasmin, ___, AMA, anti-smooth muscle 
Ab.  She should be seen by liver specialists as an outpatient 
for follow-up.

Chronic / stable issues
# Dementia - Patient has likely vascular dementia, and memory 
loss secondary to a remote stroke.  On some days, she is able to 
state her diagnosis but other days she was unable to recount the 
events of the past day.  She did not seem to have insight into 
her disease.

# DVT s/p IVC filter in ___

# Fluid overload / weight gain - The patient developed fluid 
overload in setting of receiving IVF for diarrhea and fevers, 
which improved with PO lasix.

# Hypertension - We continued home metoprolol and lisinopril.  
Aspirin was held for thrombocytopenia.

# Hyperlipidemia -We continued home simvastatin

# NIDDM - We stopped home glipizide and kept her on an insulin 
sliding scale while in house, she developed hyperglycemia in the 
setting of dexamethasone as part of her VCD.

#GERD - We continued home omeprazole

#Depression - We continued home fluoxetine

#Back Pain - We continued home short and long acting oxycodone 
regimen.

# ACCESS: Tunneled line in double-lumen Power Port-A-Cath in 
right
# PROPHYLAXIS:  Heparin SQ, Omeprazole
- Pain with- home pain regimen 
- Nausea with: scheduled zofran, prn olanzapine
- Bowel - standing colace/senna, miralax prn, hold for diarrhea
# CODE: Confirmed Full
# EMERGENCY CONTACT: daughter ___ (health care proxy)
# DISPO:  Has a private bed at ___ of ___, ambulates 
with walker, needs assistance with personal care / ADLs

# CAPACITY EVALUATION / GUARDIANSHIP - She was seen by 
psychiatry (Dr. ___ and deemed to have no capacity to 
make medical decisions as she is unable to express consistent 
choices and appreciate how medical info applies to her 
condition.  She seems to have a component of denial.  The 
patient's daughter is her health care proxy but she has not been 
involved during this hospitalization.  Social work is attempting 
to contact her daughter and request a transfer of health care 
proxy status to a legal guardian.

TRANSITION OF CARE
- Follow-up to be arranged with liver specialists regarding 
intrinsic liver disease
- Follow-up with Dr. ___ to outline course of treatment for 
multiple myeloma
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 300 mg PO Q24H 
3. Metoprolol Tartrate 50 mg PO BID 
Hold for HR<55, SBP<95 
4. Simvastatin 5 mg PO DAILY 
5. Acyclovir 400 mg PO Q8H 
6. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN dyspnea 
7. Atovaquone Suspension 1500 mg PO DAILY 
8. Oxycodone SR (OxyconTIN) 60 mg PO Q12H bone pain from 
multiple myeloma 
hold for sedation or RR < 12 
9. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN 
breakthrough pain 
Hold for sedation.
Hold for RR < 12. 
10. traZODONE 25 mg PO HS:PRN insomnia 
hold for oversedation or RR<12 
11. Lisinopril 10 mg PO DAILY 
Hold for SBP <95 
12. Fluoxetine 10 mg PO DAILY 
13. Vitamin D 800 UNIT PO DAILY 
14. Omeprazole 40 mg PO DAILY 
15. Furosemide 20 mg PO DAILY 
16. GlipiZIDE XL 5 mg PO DAILY 
17. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
20. Docusate Sodium 100 mg PO BID 
21. Bisacodyl 10 mg PO DAILY:PRN constipation 
22. Acetaminophen 650 mg PO Q6H:PRN fever 
 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN dyspnea 
3. Docusate Sodium 100 mg PO BID 
Hold for diarrhea 
4. Fluoxetine 10 mg PO DAILY 
5. Gabapentin 300 mg PO Q8H 
6. Ondansetron 4 mg PO Q8H nausea 
7. Lisinopril 10 mg PO DAILY 
Hold for SBP <95 
8. Metoprolol Tartrate 50 mg PO BID 
Hold for HR<55, SBP<95 
9. Omeprazole 40 mg PO DAILY 
10. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN 
breakthrough pain 
Hold for sedation.
Hold for RR < 12. 
11. Oxycodone SR (OxyconTIN) 60 mg PO Q12H bone pain from 
multiple myeloma 
hold for sedation or RR < 12 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Simvastatin 5 mg PO DAILY 
14. Vitamin D 800 UNIT PO DAILY 
15. Senna 1 TAB PO BID constipation 
Hold for diarrhea 
16. Bisacodyl 10 mg PO DAILY:PRN constipation 
17. OLANZapine (Disintegrating Tablet) 5 mg PO DAILY:PRN nausea 
refractory to ondansetron 
18. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
19. Heparin Flush (10 units/ml) 5 mL IV PRN line flush 
20. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
21. Atovaquone Suspension 1500 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:  Multiple myeloma, plasmacytoma
SECONDARY:  Chronic diarrhea, diabetes mellitus, transaminitis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: partial weight bearing OOB daily with TLSO, Amb 
with SW and Close S- ___ A and vc for ___

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure caring for you during your hospitalization.  
You were hospitalized for fevers and diarrhea, for which you 
received a short course of IV antibiotics.  Thorough evaluation 
of possible infectious causes of your fever did not reveal any 
clear source of infection so the antibiotics were stopped.  A CT 
scan of your abdomen revealed several masses under the skin.  A 
biopsy was performed, which revealed that you have small cancers 
called plasmacytomas, which is likely related to progression of 
multiple myeloma.  Because of this, you started chemotherapy, 
which you tolerated well.  You received blood and platelet 
transfusions when your blood counts dropped because of 
chemotherapy.

TRANSITION OF CARE
- It is very important you keep the follow-up appointments we 
have made for you below
- Follow-up to be arranged with liver specialists regarding 
intrinsic liver disease
- Follow-up with Dr. ___ / ___ to outline 
course of treatment for multiple myeloma
 
Followup Instructions:
___